US06825191B2
Synthesis of 1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]-diazepin-2-on
23 mg (0.053 mmol) of 1-(4-carboxybenzyl)-4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on was dissolved in 5 ml of dichloromethane. 6 mg (0.079 mmol) of 3-pyrroline, 13 mg (0.079 mmol) of 2-chloro-1,3-dimethylimidazonium chloride and 0.022 ml (0.159 mmol) of triethylamine were added to the obtained solution, and they were stirred overnight. The solvent was evaporated, and the obtained crude product was treated in the same manner as in step 3 in Example 1 to obtain the title compound.

reactant | 1-(4-carboxybenzyl)-4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on | 0.053 mmol, 23 mg | C(=O)(O)C1=CC=C(CN2C(CN(CC3=C2C=CC=C3)C(C3=CC=C(C=C3)Cl)=O)=O)C=C1 | C24H19ClN2O4
reactant | 3-pyrroline | 0.079 mmol, 6 mg | N1CC=CC1 | C4H7N
reactant | triethylamine | 0.159 mmol, 0.022 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]-diazepin-2-on | N1(CC=CC1)C(=O)C1=CC=C(CN2C(CN(CC3=C2C=CC=C3)C(C3=CC=C(C=C3)Cl)=O)=O)C=C1 | C28H24ClN3O3
